US05646286
3-{6-Hydroxymethyl-3-[8(4-methoxyphenyl)octyloxy]pyridin-2-yl}propenoic Acid
To a solution of 2-bromo-6-hydroxymethyl-[8(4-methoxyphenyl)octyloxy]pyridine (5.00 g, 11.8 mmol) in DMF (22.8 ml) and water (1.2 ml) were added potassium acetate (2.91 g, 29.7 mmol), tetra-n-butylammonium iodide (4.37 g, 11.8 mmol), triphenylphosphine (0,245 g, 0.94 mmol), palladium chloride (83 mg, 0.47 mmol) and potassium acrylate (3.91 g, 35.4 mmol). The mixture was placed under nitrogen and stirred and heated at 120° C. for 3.3 h. Some potassium acrylate remained undissolved. The mixture was cooled, solids filtered and washed with ethyl acetate (2×60 ml). The filtrate was washed with water (250 ml) and with 5% sodium chloride solution (2×125 ml). The organic layer was dried and evaporated. The pure product was obtained by flash column chromatography (silica, 2,0% ether in dichloromethane) (3.52 g, 72%). mp 112°114° C.

reactant | 2-bromo-6-hydroxymethyl-[8(4-methoxyphenyl)octyloxy]pyridine | 11.8 mmol, 5.00 g | BrC1=NC(=CC=C1OCCCCCCCCC1=CC=C(C=C1)OC)CO | C21H28BrNO3
reactant | potassium acetate | 29.7 mmol, 2.91 g | C(C)(=O)[O-].[K+]
reactant | triphenylphosphine | 0.94 mmol, 0,245 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | potassium acrylate | 35.4 mmol, 3.91 g | C(C=C)(=O)[O-].[K+]
solvent | DMF | 22.8 ml | CN(C)C=O | C3H7NO
solvent | water | 1.2 ml | O | H2O
catalyst | tetra-n-butylammonium iodide | 11.8 mmol, 4.37 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
catalyst | palladium chloride | 0.47 mmol, 83 mg | [Pd](Cl)Cl
product | 3-{6-Hydroxymethyl-3-[8(4-methoxyphenyl)octyloxy]pyridin-2-yl}propenoic Acid | OCC1=CC=C(C(=N1)C=CC(=O)O)OCCCCCCCCC1=CC=C(C=C1)OC | C24H31NO5
